US04226768
8-Chloro-6-(2-fluorophenyl)-3-pyrrolidinyl-4H-imidazo[1,5-a][1,4]benzodiazepine
A mixture of 1 g of 8-chloro-6-(2-fluorophenyl)-3-pyrolidinyl-4H-imidazo[1,5-a][1,4]benzodiazepine 5-oxide, 5 g of Raney nickel, 25 ml of tetrahydrofuran and 25 ml of ethanol was hydrogenated at atmospheric pressure for 15 hours. The catalyst was removed by filtration over Celite and the filtrate was evaporated. The residue was passed over silica gel using 5% (v/v) of ethanol in methylene chloride. Crystallization from ether/hexane gave end product as yellowish crystals with mp 114°-118° C.

reactant | 8-chloro-6-(2-fluorophenyl)-3-pyrolidinyl-4H-imidazo[1,5-a][1,4]benzodiazepine 5-oxide | 1 g | ClC=1C=CC2=C(C(=[N+](CC=3N2C=NC3N3CCCC3)[O-])C3=C(C=CC=C3)F)C1 | C21H18ClFN4O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 8-Chloro-6-(2-fluorophenyl)-3-pyrrolidinyl-4H-imidazo[1,5-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NC3N3CCCC3)C3=C(C=CC=C3)F)C1 | C21H18ClFN4
